US07285558B2
2-[(6-chloroquinolin-4-yl)methyl]-7-(cyclopropylmethyl)-5-methyl-3-[-1-methyl-4-(1H-tetrazol-5-yl)-1H-pyrrol-2-yl]-2H-pyrazolo[3,4-d]-pyrimidine-4,6(5H,7H)-dione
Sodium azide (0.054 g) and ammonium chloride (0.044 g) were added to a solution of 5-[2-[(6-chloro-4-quinolinyl)methyl]-7-(cyclopropylmethyl)-4,5,6,7-tetrahydro-5-methyl-4,6-dioxo-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-1-methyl-1H-pyrrole-3-carbonitrile (0.083 g) in dimethylformamide (5 ml) at 0° C. The mixture was heated at 120° C. for 31 hour. The crude reaction was purified on preparative HPLC to give the title compound (0.058 g). Mass: 543.08 (M+H).

reactant | Sodium azide | 0.054 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.044 g | [Cl-].[NH4+]
reactant | 5-[2-[(6-chloro-4-quinolinyl)methyl]-7-(cyclopropylmethyl)-4,5,6,7-tetrahydro-5-methyl-4,6-dioxo-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-1-methyl-1H-pyrrole-3-carbonitrile | 0.083 g | ClC=1C=C2C(=CC=NC2=CC1)CN1N=C2N(C(N(C(C2=C1C1=CC(=CN1C)C#N)=O)C)=O)CC1CC1 | C26H22ClN7O2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-[(6-chloroquinolin-4-yl)methyl]-7-(cyclopropylmethyl)-5-methyl-3-[-1-methyl-4-(1H-tetrazol-5-yl)-1H-pyrrol-2-yl]-2H-pyrazolo[3,4-d]-pyrimidine-4,6(5H,7H)-dione | 0.058 g | ClC=1C=C2C(=CC=NC2=CC1)CN1N=C2N(C(N(C(C2=C1C=1N(C=C(C1)C1=NN=NN1)C)=O)C)=O)CC1CC1 | C26H23ClN10O2
